US07718693B2
Ammonium hydroxide (4.15 ml, 75 mmol) was added slowly to a solution of 1-hydroxybenzotriazole (10 g, 74 mmol) in tetrahydrofuran (100 ml) at 0° C. (ice-bath) and stirred for 2 hrs. Filtration and washing with tetrahydrofuran gave ammonium 1H-1,2,3-benzotriazol-1-olate (10.57 g) as a white solid.

reactant | Ammonium hydroxide | 75 mmol, 4.15 ml | [OH-].[NH4+]
reactant | 1-hydroxybenzotriazole | 74 mmol, 10 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ammonium 1H-1,2,3-benzotriazol-1-olate | 10.57 g | N1(N=NC2=C1C=CC=C2)[O-].[NH4+] | InChI=1S/C6H4N3O.H3N/c10-9-6-4-2-1-3-5(6)7-8-9;/h1-4H;1H3/q-1;/p+1
